US08669395B2
Synthesis of 4-chloro-β-nitrostyrene
To 1066.8 g of acetic acid were added 200.14 g (1.356 mol) of 4-chlorobenzaldehyde, and 153.4 g (1.429 mol) of benzylamine, and the added components were dissolved in the acid. This solution was heated to 78° C., and 325.7 g (5.336 mol) of nitromethane was dropwise added thereto at 78 to 80° C. over 2 hours and 50 minutes. Thereafter, the solution was stirred at about 79° C. for 40 minutes. Next, 1016 g of water was dropwise added thereto at about 50° C. over 2 hours and 25 minutes. The mixture was cooled to about 10° C. and was stirred at 6 to 10° C. for 1 hour and 50 minutes. The obtained crystals were filtrated, and washed with 1016.2 g of water. The wet crystals were dissolved into 572.8 g of toluene at about 50° C. The resultant was separated into two phases, and the water phase thereof was removed. The remaining phase was washed with 330.8 g of water. By HPLC, 803.24 g of the toluene phase was analyzed. As a result, the phase contained 253.8 g of 4-chloro-β-nitrostyrene. The yield thereof was 97.1%.

reactant | acetic acid | 1066.8 g | C(C)(=O)O | C2H4O2
reactant | 4-chlorobenzaldehyde | 1.356 mol, 200.14 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | benzylamine | 1.429 mol, 153.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | nitromethane | 5.336 mol, 325.7 g | [N+](=O)([O-])C | CH3NO2
solvent | water | 1016 g | O | H2O
product | 4-chloro-β-nitrostyrene | ClC1=CC=C(C=C[N+](=O)[O-])C=C1 | C8H6ClNO2
